US06297267B1
To a solution of (4,5-diphenyl)oxazole (17 g) in THF (100 ml) was added n-BuLi (57 ml, 1.6N-solution in hexane) at −78° C. After stirring for 30 minutes, a solution of (R)-1-[3-(tertbutyldiphenyl-silyloxy)benzyl]-1-trimethylsilyoxy-2-cyclohexanone (27 g) in THF (50 ml) was added to the above mixture at the same temperature. After stirring for 1 hour, the reaction mixture was partitioned between EtOAc and water. The organic layer was washed with 1N-HCl solution and brine. The organic solvent was evaporated in vacuo to give a residue. The residue was dissolved in toluene (100 ml) and then added with (methoxycarbonylsulfamoyl)triethyl-ammonium hydroxide, inner salt(20.4 g) at room temperature. After refluxing under stirring for 5 hours, the reaction mixture was evaporated in vacuo. The residue was purified by chromatography on silica gel to give (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene (36 g).

reactant | (4,5-diphenyl)oxazole | 17 g | C1(=CC=CC=C1)C=1N=COC1C1=CC=CC=C1 | C15H11NO
reactant | n-BuLi | 1.6N, 57 ml | [Li]CCCC
reactant | (R)-1-[3-(tertbutyldiphenyl-silyloxy)benzyl]-1-trimethylsilyoxy-2-cyclohexanone | 27 g | C(C)(C)(C)[Si](OC=1C=C(C[C@]2(C(CCCC2)=O)O[Si](C)(C)C)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H42O3Si2
reactant | (methoxycarbonylsulfamoyl)triethyl-ammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene | 36 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@](CCCC1)(CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C)(C)C | C47H51NO3Si2
